US04326077
Example 11--Preparation of 3-(N-chloroacetyl-2,6-dimethylphenylamino)-2-butanone O-methylcarbamyl oxime
3-(N-chloroacetyl-2,6-dimethylphenylamino)-2-butanone oxime (2.6 g) was dissolved in 75 ml methylene chloride and 5 drops of triethylamine were added. To this mixture was added 2.6 g methylisocyanate and the solution was stirred at room temperature. The solution was refluxed for 5 minutes and solvent was stripped. The oil was crystallized in ethanol-water to yield 3 g tan product. This product is tabulated as Compound No. 17 in Table I.

reactant | 3-(N-chloroacetyl-2,6-dimethylphenylamino)-2-butanone oxime | 2.6 g | ClCC(=O)N(C(C(C)=NO)C)C1=C(C=CC=C1C)C | C14H19ClN2O2
reactant | methylisocyanate | 2.6 g | CN=C=O | C2H3NO
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
catalyst | triethylamine | 5 drops | C(C)N(CC)CC | C6H15N
product | 3-(N-chloroacetyl-2,6-dimethylphenylamino)-2-butanone O-methylcarbamyl oxime | 3 g | CNC(=O)ON=C(C)C(C)N(C(CCl)=O)C1=C(C=CC=C1C)C | C16H22ClN3O3
